US08044067B2
A mixture of benzenethiol (5.91 g) and potassium hydroxide (3.48 g) in dioxane (200 ml) was heated at 80° C. for one hour under nitrogen. After cooling down to 20° C., a solution of methyl 2-(3,5-dimethoxyphenyl)-2-bromoacetate (15.0 g) in dioxane (100 ml) was added and the mixture was refluxed for two hours. Additionally potassium hydroxide (1.5 g) was added and the reflux continued for further two hours. After cooling to room temperature, the suspension was filtered and the filtrate concentrated to dryness. The residue was partitioned between dichloromethane (300 ml) and aqueous hydrochloric acid (1M, 300 ml). The organic phase was dried and concentrated to dryness, leaving crude 2-(3,5-dimethoxyphenyl)-2-(phenylsulfanyl)acetic acid. Crystallization from diethyl ether gave the pure compound (7.2 g), m.p. 124-126° C.

reactant | benzenethiol | 5.91 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium hydroxide | 3.48 g | [OH-].[K+]
reactant | methyl 2-(3,5-dimethoxyphenyl)-2-bromoacetate | 15.0 g | COC=1C=C(C=C(C1)OC)C(C(=O)OC)Br | C11H13BrO4
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(3,5-dimethoxyphenyl)-2-(phenylsulfanyl)acetic acid | COC=1C=C(C=C(C1)OC)C(C(=O)O)SC1=CC=CC=C1 | C16H16O4S
